US08703761B2
B. {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-yl]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester
DIAD (0.22 mL, 1.1 mmol) was added to a solution of PPh3 (300 mg, 1.15 mmol) in THF (5 mL) at room temperature. The mixture was stirred at room temperature for 5 min. To this was added a solution of {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-3-hydroxy-propyl}-carbamic acid tert-butyl ester (438 mg, 0.867 mmol) in THF (15 mL). The mixture was stirred at room temperature for 30 min and partitioned between EtOAc and aqueous K2CO3. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. 1H NMR (400 MHz, CDCl3) δ 1.47 (s, 9H), 2.10-2.20 (m, 1H), 2.79-2.87 (m, 1H), 3.87-3.95 (m, 1H), 4.35-4.41 (m, 1H), 4.45-4.52 (m, 1H), 5.08-5.13 (m, 1H), 6.95-7.08 (m, 6H), 7.90-7.95 (m, 2H). m/z 488.1 (MH+).

reactant | DIAD | 1.1 mmol, 0.22 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | PPh3 | 1.15 mmol, 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-3-hydroxy-propyl}-carbamic acid tert-butyl ester | 0.867 mmol, 438 mg | C(C)(C)(C)OC(NC(CCO)C(NC=1SC(=C(N1)C1=CC=C(C=C1)F)OC1=CC=C(C=C1)F)=O)=O | C24H25F2N3O5S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-yl]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(N(CC1)C=1SC(=C(N1)C1=CC=C(C=C1)F)OC1=CC=C(C=C1)F)=O)=O | C24H23F2N3O4S
